US07456164B2
Intermediate 106: C-{4-[4-(3-[1,4]Oxazepan-4-yl-propoxy)-phenyl]-tetrahydro-pyran-4-yl}-methylamine
4-[4-(3-[1,4]Oxazepan-4-yl-propoxy)-phenyl]-tetrahydro-pyran-4-carbonitrile (900 mg, 26 mmol) was dissolved in THF (5 ml) and cooled to 0° C. under nitrogen. Lithium aluminium hydride (1M in EtO2, 7.8 ml, 78 mmol) was added dropwise and left to stir for 10 minutes before heating to reflux for 18 hours. The solution was cooled to 0° C. before quenching with water (0.78 ml), followed by sodium hydroxide (2M, 0.78 ml) and finally water (2.4 ml). The resulting slurry was filtered through Arbocel®, washing through with DCM (2×10 ml). The filtrate was concentrated in vacuo to afford the title compound as a colourless oil (650 mg, 72%). HRMS ESI+ m/z 349.2480 [MH]+.

reactant | 4-[4-(3-[1,4]Oxazepan-4-yl-propoxy)-phenyl]-tetrahydro-pyran-4-carbonitrile | 26 mmol, 900 mg | O1CCN(CCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)C#N | C20H28N2O3
reactant | Lithium aluminium hydride | 78 mmol, 1M, 7.8 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | C-{4-[4-(3-[1,4]Oxazepan-4-yl-propoxy)-phenyl]-tetrahydro-pyran-4-yl}-methylamine | 650 mg, 72% | O1CCN(CCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)CN | C20H32N2O3
